US06538150B2
b) Methyl 2-amino-4-methanesulfonylaminomethylbenzoate
3 g of 3-amino4-methoxycarbonylbenzylammonium chloride (18.8 mmol) are dissolved in 50 ml of dimethylacetamide, triethylamine (2.8 g, 27.7 mmol) is added, and the mixture is subsequently reacted at 0-10° C. with a solution of methanesulfonyl chloride (1.6 g, 13.8 mmol) in 20 ml of dimethylacetamide. After 1 h, the solvent is removed in vacuo and the residue is worked up by extraction with water/dichloromethane. The combined organic extracts are washed with water and dried (Na2SO4) and then evaporated on a rotary evaporator. The residue obtained is crystallized from water, whereupon 3 g (84%) of methyl 2-amino-4-methanesulfonylaminomethylbenzoate of melting point 120-121° C. are obtained.

reactant | 3-amino4-methoxycarbonylbenzylammonium chloride | 18.8 mmol, 3 g | [Cl-].NC=1C=C(C[NH3+])C=CC1C(=O)OC
reactant | triethylamine | 27.7 mmol, 2.8 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 13.8 mmol, 1.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | Methyl 2-amino-4-methanesulfonylaminomethylbenzoate | NC1=C(C(=O)OC)C=CC(=C1)CNS(=O)(=O)C | C10H14N2O4S
